Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Tegretol
 
Attending: ___
 
Chief Complaint:
Right facial paresthesias, transient right facial droop
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ right handed woman with a past 
medical
history of OSA and Epilepsy with well control partial complex
events who presents for evaluation of right facial paresthesias
and transient right facial droop.

Essentially, she went to bed last night feeling well.  She awoke
this morning with a "red line" on her right face, possibly from
her CPAP machine.  Sometime a little later ("mid morning") she
noted gradual onset of right V2 burning and buzzing pain.  Over 
a
perhaps an hour, it gradually spread up to involve her right V1
distribution.  It did not involve her right V3.  Over time, the
burning buzzing pain gradually transitioned to more of a dull
ache.

She has had several episodes of this prior- perhaps 5 over the
past 5 months.  This episode was similar in characteristic, just
lasted a little while longer with slightly more severe pain. 
Because of this, she called her PCP who recommended she present
to urgent care for evaluation of a possible allergic reaction.

At urgent care, she underwent a NCHCT which was benign.  As she
was about to be discharge (around 710), the nurse noticed ___
possible right lower facial droop/asymmetry.  This was
corroborated by the patient and physician ___.  She was
transferred for further evaluation.

Current she feels well, but continues to have a mild right 
facial
ache.  There is no facial droop present at this time.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies facial
hyperesthesia.  Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath.  Denies chest pain or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.
 
Past Medical History:
- OSA compliant with CPAP.
- Complex Partial Seizures- Episodes consist of perhaps ___,
out of body, distant twitching.  Last seizure roughly ___ years
ago.
- Depressinon
- Gallstones
- Sinusitis
- s/p hysterectomy
 
Social History:
___
Family History:
Father deceased at ___ in the setting of CAD and dementia. 
Mother with spinal stenosis, brother with atrial fibrillation. 
No family history of stroke or other neurologic disease.
 
Physical Exam:
ADMISSION EXAMINATION:

Physical Exam:
Vitals: 98.0 76 126/78 16 99% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, no lesions noted in oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND.
Extremities: WWP.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch, pinprick and
proprioception.  She endorses continued mild ache in the right 
V1
and V2 distribution.
VII: Questionable right NLF flattening at rest.  With 
activation,
facial musculature symmetric.  Lip closure strong, able to puff
cheeks without air loss.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2+ 2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

================================================

DISCHARGE EXAMINATION:

Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, no lesions noted in oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND.
Extremities: WWP.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch, pinprick and
proprioception.  She endorses continued mild ache in the right 
V1
and V2 distribution.
VII: Facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2+ 2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
___ 08:00PM BLOOD WBC-7.3 RBC-4.18 Hgb-13.0 Hct-38.3 MCV-92 
MCH-31.1 MCHC-33.9 RDW-11.9 RDWSD-39.6 Plt ___
___ 08:00PM BLOOD Neuts-52.2 ___ Monos-7.8 Eos-3.7 
Baso-1.1* Im ___ AbsNeut-3.83 AbsLymp-2.57 AbsMono-0.57 
AbsEos-0.27 AbsBaso-0.08
___ 08:00PM BLOOD ___ PTT-31.6 ___
___ 08:00PM BLOOD Glucose-107* UreaN-14 Creat-0.8 Na-140 
K-4.4 Cl-103 HCO3-26 AnGap-15
___ 08:00PM BLOOD Albumin-4.6 Calcium-9.6 Phos-3.2# Mg-2.1
___ 08:00PM BLOOD ALT-26 AST-34 AlkPhos-95 TotBili-0.2
___ 08:00PM BLOOD Lipase-63*
___ 08:00PM BLOOD cTropnT-<0.01
___ 07:50AM BLOOD %HbA1c-5.1 eAG-100
___ 07:50AM BLOOD Triglyc-56 HDL-62 CHOL/HD-2.8 LDLcalc-101
___ 07:50AM BLOOD TSH-2.6
___ 07:50AM BLOOD CRP-1.2

IMAGING:

CTA head/neck ___:
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Patent head and neck vasculature. 
  
MRI brain ___:

TTE ___:
IMPRESSION: No PFO or ASD seen. Normal global and regional 
biventricular systolic function.

 
Brief Hospital Course:
Patient admitted for right facial paresthesia which was 
associated with a history of new transient right facial droop 
that was endorsed by patient but not appreciated on examination 
by neurology providers. MRI showed no evidence of infarct. TTE 
with bubble study negative for cardioembolic source. TIA was 
considered but low on differential given relatively few risk 
factors. Breakthrough seizures were also thought unlikely. CRP 
and ESR were ordered to exclude temporal arteritis; CRP was 
negative and ESR pending at time of discharge. Etiology thought 
likely to represent complex migraine, however patient was 
counseled on stroke prevention and continued on daily aspirin.

Transitional issues:
[ ] Please follow up ESR. If elevated, consider further 
evaluation for possible temporal arteritis.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 20 mg PO DAILY 
2. ClonazePAM 1 mg PO QHS 
3. LaMOTrigine 100 mg PO QAM 
4. LaMOTrigine 200 mg PO QPM 
5. Venlafaxine 75 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. ARIPiprazole 20 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. ClonazePAM 1 mg PO QHS 
4. LaMOTrigine 100 mg PO QAM 
5. LaMOTrigine 200 mg PO QPM 
6. Venlafaxine 75 mg PO DAILY 
7. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient right facial droop
Recurrent right facial sensory changes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for further evaluation of right facial sensory 
changes and right facial droop. We performed an MRI which showed 
no evidence of stroke. Although the etiology of your facial 
droop is unclear, it may have represented a TIA. To further 
evaluate this, we performed a transthoracic echocardiogram which 
showed that your heart function and anatomy are normal. Please 
continue to take your aspirin daily, eat a healthy diet, and 
exercise regularly for future stroke prevention.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___